US04122260
3-[(Acetyloxy)methyl]-7-[[2-sulfo-2-(2-formyl-1-pyrryl)acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
A solution of 2-sulfo-2-(2-formyl-1-pyrryl)acetyl chloride (0.01 m) in ether is added to 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (0.01 m) and sodium bicarbonate (0.03 m) in water. After 30 minutes the phases are separated, the pH adjusted to about 6.5 and the aqueous extracted with ethyl acetate. The ethyl acetate is separated from the aqueous phase, dried over magnesium sulfate and flash evaporated to give the title compound.

reactant | 2-sulfo-2-(2-formyl-1-pyrryl)acetyl chloride | S(=O)(=O)(O)C(C(=O)Cl)N1C(=CC=C1)C=O | C7H6ClNO5S
reactant | 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)(=O)OCC1=C(N2C(C(C2SC1)N)=O)C(=O)O | C10H12N2O5S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 3-[(Acetyloxy)methyl]-7-[[2-sulfo-2-(2-formyl-1-pyrryl)acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(C(N1C(=CC=C1)C=O)S(=O)(=O)O)=O)=O)C(=O)O | C17H17N3O10S2
